US04218472
Ethyl chloroformate (2.06 g) is added dropwise at about 7° C. to a stirred mixture of 2-amino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol (3.35 g) in chloroform (50 ml) and sodium hydroxide (0.9 g) in water (20 ml). After 2 hours, the chloroform phase is separated and the aqueous phase is extracted twice with chloroform. The combined chloroform solutions are dried and concentrated under reduced pressure. The crude 2-ethoxycarbonylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol thus obtained is dissolved in tetrahydrofuran (50 ml) and added dropwise to lithium aluminium hydride (1.8 g) in tetrahydrofuran (150 ml). After refluxing for 3 hours, the mixture is cooled and decomposed with a slight excess of saturated sodium sulphate solution. The solid precipitate is filtered off and washed with tetrahydrofuran. The combined filtrate and washings are dried and the solvent is removed, finally under reduced pressure. The residual oil crystallizes on scratching. Crystallization from diisopropyl ether gives the title compound; m.p. 134° C. 2-Ethylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol is similarly obtained when using acetic anhydride instead of ethyl chloroformate and reduction of the crude N-acetyl derivative. The free base is obtained as an oil, which is converted to the hydrochloride by treatment with hydrogen chloride in diethyl ether, m.p. 227° C. after crystallization from isopropyl alcohol. An identical product is obtained by reduction of crude 2-acetamido-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol acetate obtained by the treatment of 2-amino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol with acetylchloride in diethyl ether containing an excess of triethylamine, removal of the precipitated triethylamine hydrochloride by filtration and evaporation of the filtrate.

reactant | Ethyl chloroformate | 2.06 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-amino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | 3.35 g | NCC(O)C1=CC2(C3=CC=CC=C13)CCCC2 | C15H19NO
reactant | sodium hydroxide | 0.9 g | [OH-].[Na+]
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 20 ml | O | H2O
product | 2-ethoxycarbonylamino-1-[spiro(cyclopentane-1,1'-indene)-3'-yl]ethanol | C(C)OC(=O)NCC(O)C1=CC2(C3=CC=CC=C13)CCCC2 | C18H23NO3
